US04366189
264 g of 1-acetyl-2,2-dimethoxyethane are added dropwise at room temperature to use a suspension of 465 g of 4-carboxyphenylhydrazine hydrochloride (81%) in 3400 ml of ethanol which contains 253 g of pyridine. The reaction mixture is then kept at reflux temperature for 1 hour. A solution of 73 g of hydrochloric acid in 240 ml of ethanol is then added dropwise. The mixture is stirred for a further 18 hours at 80° C., then a solution of 240 g of sodium hydroxide in 1500 ml of water is added, and the ethanol is distilled off. The precipitated sodium salt of 3-methyl-1-(4-carboxyphenyl)pyrazole is dissolved hot in 1000 ml of water and precipitated with dilute hydrochloric acid. The precipitate is filtered with suction, washed with water and dried. Recrystallisation from methanol affords 361 g (89% of theory) of 3-methyl-1-(4-carboxyphenyl)pyrazole with a melting point of 249°-250° C. A suspension of 101 g of this acid in 500 ml of hexane and 1 ml of dimethyl formamide is heated to 60° C. Then 71 g of thionyl chloride are run into the suspension in the course of 30 minutes. The reaction mixture is stirred for 18 hours at reflux temperature, then 100 ml of toluene are added, and the mixture is again heated to the boil. The clear solution obtained is filtered and, after cooling to 10° C., the precipitated 3-methyl-1-(4-chloroformylphenyl)pyrazole is filtered with suction and dried. Yield: 90 g (82% of theory) in the form of pale crystals which melt at 110°-111° C.

reactant | 1-acetyl-2,2-dimethoxyethane | 264 g | C(C)(=O)CC(OC)OC | C6H12O3
reactant | 4-carboxyphenylhydrazine hydrochloride | 465 g | Cl.C(=O)(O)C1=CC=C(C=C1)NN
reactant | hydrochloric acid | 73 g | Cl | ClH
reactant | sodium hydroxide | 240 g | [OH-].[Na+]
solvent | ethanol | 3400 ml | C(C)O | C2H6O
solvent | ethanol | 240 ml | C(C)O | C2H6O
solvent | water | 1500 ml | O | H2O
solvent | pyridine | 253 g | N1=CC=CC=C1 | C5H5N
product | 3-methyl-1-(4-carboxyphenyl)pyrazole | 361 g, 89% | CC1=NN(C=C1)C1=CC=C(C=C1)C(=O)O | C11H10N2O2
